US08293768B2
To a suspension of potassium carbonate in anhydrous methanol (10%, 50 mL) was added (5-(difluoromethyl)furan-2-yl)methyl acetate (4.21 g, 22.16 mmol). The reaction mixture was stirred at ambient temperature for 20 minutes, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with ethyl acetate/hexane (3/7) to afford (5-(difluoromethyl)furan-2-yl)methanol as a yellow oil in 96% yield (3.15 g): 1H NMR (300 MHz, CDCl3) δ 6.55 (t, JH-F=54.2 Hz, 1H), 6.58-6.55 (m, 1H), 6.34-6.26 (m, 1H), 4.59 (d. J=5.9 Hz, 2H).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | (5-(difluoromethyl)furan-2-yl)methyl acetate | 22.16 mmol, 4.21 g | C(C)(=O)OCC=1OC(=CC1)C(F)F | C8H8F2O3
solvent | methanol | 50 mL | CO | CH4O
product | (5-(difluoromethyl)furan-2-yl)methanol | 96% yield | FC(C1=CC=C(O1)CO)F | C6H6F2O2
